US05922751
A mixture of 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-carboxylic acid (400 mg, 1.32 mmol) and SOCl2 (10 ml) containing DMF (1 drop) was heated to reflux for 2 hours. The volatiles were removed in vacuo and to the residue was added toluene (25 ml) and the solvent evaporated. This procedure was repeated to remove dissolved gaseous by-products. The residue was dissolved in THF (10 ml) and added dropwise at 0° C. over 10 minutes, to a solution of the salt of 2,6-dimethylaniline (510 μl, 4.14 mmol) in THF (30 ml) (formed by adding a solution of the aniline in THF (15 ml) to a suspension of NaH (167 mg, 4.14 mmol) is THF (15 ml) at room temperature). The resultant solution was stirred at room temperature for 48 hours, diluted with 1N HCl (20 ml) and the mixture extracted with methylene chloride (2×50 ml) The combined organics were dried over Na2SO4 and the volatiles removed in vacuo. Flash chromatography (SiO2 ; CH2Cl2 :EtOH (97:3)) afforded 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-carboxylic acid-2,6-dimethylphenyl amide (80 mg, 15%) as a pale yellow solid, mp 118-122° C.

reactant | 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-carboxylic acid | 1.32 mmol, 400 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C=1NC=C(N1)C(=O)O | C16H18N2O4
reactant | SOCl2 | 10 ml | O=S(Cl)Cl | Cl2OS
reactant | 2,6-dimethylaniline | 4.14 mmol, 510 μl | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | NaH | 4.14 mmol, 167 mg | [H-].[Na+]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | HCl | 1N, 20 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(3-cyclopentyloxy-4-methoxyphenyl)-imidazole-4-carboxylic acid-2,6-dimethylphenyl amide | 80 mg, 15% | CC1=C(C(=CC=C1)C)NC(=O)C=1N=C(NC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H27N3O3
